US04837341
A mixture of 500 mg of 5,6-epoxy-4,4-dimethyl-tetrahydro-pyr-2-one, 5 ml of 1,1-dimethyl ethanol and 2.5 mg of p-toluene sulfonic acid was stirred for 41 hours at room temperature and 1 ml of pyridine was then added. The mixture was evaporated to dryness under reduced pressure to obtain 6-(1,1-dimethylethoxy)-5-hydroxy-4,4-dimethyl-tetrahydro-pyr-2-one which was used as is for the next step.

reactant | 5,6-epoxy-4,4-dimethyl-tetrahydro-pyr-2-one | 500 mg | O1C2C(CC(OC21)=O)(C)C | C7H10O3
reactant | 1,1-dimethyl ethanol | 5 ml | CC(C)(O)C | C4H10O
reactant | p-toluene sulfonic acid | 2.5 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 6-(1,1-dimethylethoxy)-5-hydroxy-4,4-dimethyl-tetrahydro-pyr-2-one | CC(C)(OC1C(C(CC(O1)=O)(C)C)O)C | C11H20O4
